US09278973B2
To a solution of 3-isopropyl-1H-1,2,4-triazol-5-amine (100 mg, 0.79 mmol) in n-BuOH (1 mL) was added ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate (275 mg, 1.18 mmol) and TsOH (7 mg, 0.04 mmol), and the resulting mixture was stirred for 5 h at 130° C. The solids were collected by filtration and washed with MeOH (3×1 mL) to afford 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-isopropyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a off-white solid (45 mg, 19%).

reactant | 3-isopropyl-1H-1,2,4-triazol-5-amine | 0.79 mmol, 100 mg | C(C)(C)C1=NNC(=N1)N | C5H10N4
reactant | ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate | 1.18 mmol, 275 mg | N1N=NC2=C1C=CC(=C2)C(CC(=O)OCC)=O | C11H11N3O3
reactant | TsOH | 0.04 mmol, 7 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | n-BuOH | 1 mL | CCCCO | C4H10O
product | 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-isopropyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 45 mg, 19% | N1N=NC2=C1C=CC(=C2)C=2NC=1N(C(C2)=O)N=C(N1)C(C)C | C14H13N7O
